US08877975B2
(b) (2-(3,4-dichlorophenyl)-2-((ethylamino)methyl)-cyclohexyl)methanol
The title compound was prepared from racemic 7a-(3,4-dichlorophenyl)hexahydroisobenzofuran-1(3H)-one and ethylamine according to General Procedures AA, followed by General Procedure E. The racemic aminol was separated using a chiral column (Chiracel OD column; 95:5:0.1 hexanes:IPA:DEA, λ=254 nm, 1 mL/min) to give the fast moving enantiomer 169 E1 (Rt=7.5 min) and the slow moving enantiomer 169 E2 (Rt=9.7 min). LCMS Rt=7.88 min, m/z=316 (M+1). 1H NMR (CDCl3, δ): 7.4 (m, 2H), 7.17 (dd, J=2.4, 8.5 Hz, 1H), 3.7 (m, 2H), 3.10 (d, J=12.3 Hz, 1H), 2.71 (d, J=12.3 Hz, 1H), 2.6 (m, 2H), 2.3 (m, 1H), 1.9-1.3 (m, 8H), 1.04 (t, J=7.2 Hz, 3H). 13C NMR (CDCl3, δ, mult): 146.5(0), 133.1(0), 130.8(1), 130.0(0), 128.5(1), 125.7(1), 63.2(2), 53.6(br, 2), 45.4(0), 43.9(2), 41.9(1), 39.8(br, 2), 26.1(2), 24.8(2), 22.0(2), 14.5(3).

reactant | racemic 7a-(3,4-dichlorophenyl)hexahydroisobenzofuran-1(3H)-one | ClC=1C=C(C=CC1Cl)C12CCCCC2COC1=O | C14H14Cl2O2
reactant | ethylamine | C(C)N | C2H7N
product | (2-(3,4-dichlorophenyl)-2-((ethylamino)methyl)-cyclohexyl)methanol | ClC=1C=C(C=CC1Cl)C1(C(CCCC1)CO)CNCC | C16H23Cl2NO
